US05538976
5-[N-(4-Cyanophenyl)-N-(2-fluorobenzyl)amino]pyrimidine 1/2 oxalate
Starting compounds: 5-[N-(4-cyanophenyl)amino]pyrimidine and 2-fluorobenzyl bromide

reactant | 5-[N-(4-cyanophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | 2-fluorobenzyl bromide | FC1=C(CBr)C=CC=C1 | C7H6BrF
product | 5-[N-(4-Cyanophenyl)-N-(2-fluorobenzyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)N(CC1=C(C=CC=C1)F)C=1C=NC=NC1 | C18H13FN4
